US04067903
288 parts of β-naphthol, 5 parts of tribenzyl phosphite and 115 parts of ethylamine gas are heated at 230° C in a pressure autoclave for 10 hours. The pressure is 35 atmospheres. The mixture is added to 2,000 parts of water and the batch is stirred for 30 minutes at 70° - 80° C. The lower oily phase is separated off and distilled. 321 parts of N-ethyl-β-naphthylamine, boiling at 119° - 120° C/0.1 mm Hg are obtained, corresponding to a yield of 94% of theory.

reactant | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | tribenzyl phosphite | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C21H21O3P
reactant | ethylamine | C(C)N | C2H7N
solvent | water | O | H2O
product | N-ethyl-β-naphthylamine | yield of 94% | C(C)NC1=CC2=CC=CC=C2C=C1 | C12H13N
